US05552397
d) Spiro[4.6]undecan-6-one
t-Butyl lithium (1.7M in pentane, 20.0 ml., 34 mmol.) was slowly added to ether (38 ml.) at -20° C. as the reaction was further cooled to -100° C. in a methanol/dry ice/liquid nitrogen bath. To this -100° C. solution was added the product from part (c) (5.0 g., 16.1 mmol.) in 2:1 ether/pentane (3 ml.) over 35 minutes, maintaining the temperature below -97° C. The reaction was warmed to -50° C. over two hours then quenched with a saturated solution of ammonium chloride, extracted with ethyl acetate (4×100 ml.), washed with brine, dried (magnesium sulfate), filtered and concentrated to give a clear oil (mixture of desired product and the iodo starting material).

reactant | t-Butyl lithium | 34 mmol, 1.7M, 20.0 ml | C(C)(C)(C)[Li]
reactant | ether | 38 ml | CCOCC | C4H10O
reactant | ether pentane | 3 ml | CCOCC.CCCCC
product | Spiro[4.6]undecan-6-one | C1CCCC12C(CCCCC2)=O | C11H18O
